US09193723B2
4-[(imidazo[1,2-a]pyridin-6-ylcarbamoyl)amino]-N-(3-methylbutyl)benzamide
A solution of 4-amino-N-isopentylbenzamide (0.05 g, 0.242 mmol), bis(2,5-dioxopyrrolidin-1-yl)carbonate (0.078 g, 0.303 mmol) and pyridine (0.020 ml, 0.242 mmol) in N-methyl-2-pyrrolidinone (0.6 mL) was stirred at room temperature for 1 hour. Diisopropylethylamine (0.127 ml, 0.727 mmol) was added followed by addition of a solution of imidazo[1,2-a]pyridin-6-amine (0.041 g, 0.279 mmol) in N-methyl-2-pyrrolidinone (0.6 mL) dropwise by syringe over 5 minutes. The reaction mixture was stirred for 16 hours at room temperature and the mixture was treated with water. The resulting suspension was stirred for 5 minutes and filtered with water washes. Vacuum drying and reverse phase chromatography provided the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.04-8.93 (m, 2H), 8.76 (bs, 1H), 8.24 (t, J=5.5 Hz, 1H), 7.96 (s, 1H), 7.79 (d, J=8.7 Hz, 2H), 7.58-7.45 (m, 4H), 7.09 (dd, J=9.6, 2.0 Hz, 1H), 3.33-3.20 (m, 2H), 1.68-1.52 (m, 1H), 1.46-1.35 (m, 2H), 0.90 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 366 (M+H)+.

reactant | 4-amino-N-isopentylbenzamide | 0.242 mmol, 0.05 g | NC1=CC=C(C(=O)NCCC(C)C)C=C1 | C12H18N2O
reactant | bis(2,5-dioxopyrrolidin-1-yl)carbonate | 0.303 mmol, 0.078 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | pyridine | 0.242 mmol, 0.020 ml | N1=CC=CC=C1 | C5H5N
reactant | Diisopropylethylamine | 0.727 mmol, 0.127 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | imidazo[1,2-a]pyridin-6-amine | 0.279 mmol, 0.041 g | N=1C=CN2C1C=CC(=C2)N | C7H7N3
solvent | N-methyl-2-pyrrolidinone | 0.6 mL | CN1C(CCC1)=O | C5H9NO
solvent | N-methyl-2-pyrrolidinone | 0.6 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-[(imidazo[1,2-a]pyridin-6-ylcarbamoyl)amino]-N-(3-methylbutyl)benzamide | N=1C=CN2C1C=CC(=C2)NC(=O)NC2=CC=C(C(=O)NCCC(C)C)C=C2 | C20H23N5O2
